US09062070B2
Step F: tert-butyl (9aR)-3-(3-cyano-4-fluorophenyl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate
A solution of tert-butyl (3R)-4-[2-(3-cyano-4-fluorophenyl)-2-hydroxyethyl]-3-(hydroxymethyl)piperazine-1-carboxylate (5.0 g, 13.2 mmol) in 100 mL of THF was stirred at 0° C. for 10 min, and then NaH (60%) (1.32 g, 33.0 mmol) was added at 0° C. The resulting white suspension was stirred vigorously at 0° C. for 5 min, then at r.t for 1 h. The reaction suspension was then recooled to 0° C., N-Tosylimidazole was added and the resulting solution was stirred for a further 10 min at 0° C. before being warmed again to r.t and stirred for 1 h. The reaction solution was then cooled once more to 0° C., and excess sodium hydride was carefully quenched by the slow addition of sat. NH4Cl solution. The resulting biphasic solution was partitioned between sat. NH4Cl and EtOAc. The organic layer was washed with water and brine, dried over Na2SO4 and concentrated in vacuum. The residue was purified with silica gel column chromatography to give the title compound: 1H-NMR (300 MHz, CDCl3) δ7.76˜7.79 (m, 1H), 7.49˜7.58 (m, 1H), 7.11˜7.15 (m, 1H), 7.16˜7.12 (m, 1H), 3.86˜4.06 (m, 2H), 3.33˜3.48 (m, 1H), 3.08˜3.17 (m, 1H), 2.80˜2.94 (m, 2H), 2.64˜2.74 (m, 2H), 2.29˜2.46 (m, 2H), 2.09˜2.20 (m, 1H), 1.40 (d, J=3.0 Hz, 9H).

reactant | tert-butyl (3R)-4-[2-(3-cyano-4-fluorophenyl)-2-hydroxyethyl]-3-(hydroxymethyl)piperazine-1-carboxylate | 13.2 mmol, 5.0 g | C(#N)C=1C=C(C=CC1F)C(CN1[C@H](CN(CC1)C(=O)OC(C)(C)C)CO)O | C19H26FN3O4
reactant | NaH | 33.0 mmol, 1.32 g | [H-].[Na+]
reactant | N-Tosylimidazole | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=NC=C1 | C10H10N2O2S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl (9aR)-3-(3-cyano-4-fluorophenyl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate | C(#N)C=1C=C(C=CC1F)C1CN2[C@@H](CO1)CN(CC2)C(=O)OC(C)(C)C | C19H24FN3O3
